US08008327B2
A mixture of 1-(6-bromo-pyridin-3-yl)-propan-1-one (11.8 g, 55.1 mmol), (R)-(+)-2-methyl-2-propanesulfinamide (8.0 g, 66 mmol) and titanium isopropoxide (18.0 mL, 61.4 mmol) in dichloroethane (65 mL) was warmed at reflux for 2 days. The reaction was monitored by TLC (ethyl acetate-hexanes 2:8) indicating a new more polar product than starting ketone, however ketone was still evident. The mixture was diluted with first dichloromethane (600 mL) and then water (15 mL) was added. The mixture was stirred for 10 minutes and then magnesium sulfate added. The mixture was filtered through diatomaceous earth and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 0-40% ethyl acetate in hexanes and then a gradient of 0-40% ethyl acetate in dichloromethane to afford 2-methyl-propane-2-sulfinic acid [1-(6-bromo-pyridin-3-yl)-prop-(E)-ylidene]-amide.

reactant | 1-(6-bromo-pyridin-3-yl)-propan-1-one | 55.1 mmol, 11.8 g | BrC1=CC=C(C=N1)C(CC)=O | C8H8BrNO
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 66 mmol, 8.0 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | water | 15 mL | O | H2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloroethane | 65 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
catalyst | titanium isopropoxide | 61.4 mmol, 18.0 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2-methyl-propane-2-sulfinic acid [1-(6-bromo-pyridin-3-yl)-prop-(E)-ylidene]-amide | BrC1=CC=C(C=N1)\C(\CC)=N\S(=O)C(C)(C)C | C12H17BrN2OS
